US08877970B2
4-(3-(4-(3-(3-iodophenyl)thioureido)phenyl)thioureido)benzene-sulfonamide (MIP-1230)
To a solution of 4-(3-(4-aminophenyl)thioureido)benzenesulfonamide (0.322 g, 1.0 mmol) in acetonitrile was added 1-iodo-3-isothiocyanatobenzene (0.261 g, 1.0 mmol). The mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and water was added into the crude reaction mixture. The precipitate which formed was filtered, and dried to afford the title product as a white solid (0.452 g, 78%). 1H NMR (400 MHz, DMSO) δ 10.05 (s, 1H), 10.02 (s, 1H), 9.90 (s, 1H), 9.81 (s, 1H), 7.94 (t, J=1.8 Hz, 1H), 7.74 (d, J=8.8 Hz, 2H), 7.68 (d, J=8.8 Hz, 2H), 7.48-7.41 (m, 5H), 7.12 (t, J=8.0 Hz, 1H); MS (ESI), 584 (M+H)+.

reactant | 4-(3-(4-aminophenyl)thioureido)benzenesulfonamide | 1.0 mmol, 0.322 g | NC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)S(=O)(=O)N)=S | C13H14N4O2S2
reactant | 1-iodo-3-isothiocyanatobenzene | 1.0 mmol, 0.261 g | IC1=CC(=CC=C1)N=C=S | C7H4INS
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(3-(4-(3-(3-iodophenyl)thioureido)phenyl)thioureido)benzene-sulfonamide | 0.452 g, 78% | IC=1C=C(C=CC1)NC(NC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)S(=O)(=O)N)=S)=S | C20H18IN5O2S3
